US07750002B2
A mixture of 2-bromo-2,N-dimethyl-propionamide (312 mg), 1-BOC-piperazine (323 mg) and silver oxide (800 mg) was stirred in toluene (5 mL) at reflux. After 24 h the reaction mixture was cooled, filtered through celite, diluted with chloroform, washed with brine, dried (MgSO4) and the solvent was removed in vacuo to yield 4-(1-methyl-1-methylcarbamoyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (461 mg). Removal of the BOC group with HCl yielded the desired compound, which was isolated as the hydrochloride salt.

reactant | 2-bromo-2,N-dimethyl-propionamide | 312 mg | BrC(C(=O)NC)(C)C | C5H10BrNO
reactant | 1-BOC-piperazine | 323 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver oxide | 800 mg | [Ag]=O
product | 4-(1-methyl-1-methylcarbamoyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 461 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C)(C(NC)=O)C | C14H27N3O3
